US05589478
A mixture of 4-tert-butyl-N-[5-(3-methoxyphenoxy)-6-{2-(2-methylthiopyrimidin-4-yloxy)ethoxy}pyrimidin-4-yl]benzenesulfonamide (250 mg), Raney-nickel (W-2) (2 g) and ethanol (5 ml) is stirred at room temperature overnight, and the mixture is refluxed for four hours. Raney-nickel is removed by filtration, and washed with ethanol and acetic acid. The filtrate is concentrated under reduced pressure, and the residue is extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol- 10:1), and recrystallized from ethyl acetate/n-hexane to give 4-tert-butyl-N-[5-(3-methoxyphenoxy)-6-{2-(pyrimidin-4-yloxy)ethoxy}pyrimidin-4-yl]benzenesulfonamide (76 mg) as crystals.

reactant | 4-tert-butyl-N-[5-(3-methoxyphenoxy)-6-{2-(2-methylthiopyrimidin-4-yloxy)ethoxy}pyrimidin-4-yl]benzenesulfonamide | 250 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCOC1=NC(=NC=C1)SC | C28H31N5O6S2
catalyst | Raney-nickel | 2 g | [Ni] | Ni
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-tert-butyl-N-[5-(3-methoxyphenoxy)-6-{2-(pyrimidin-4-yloxy)ethoxy}pyrimidin-4-yl]benzenesulfonamide | 76 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCOC1=NC=NC=C1 | C27H29N5O6S
